US07868030B2
Magnesium turnings (365 mg, 15.0 mmol, 1.5 equiv.) were suspended in 15 ml dry diethyl ether. A crystal of iodine and a few drops of 2-bromo-3-methylthiophene in 10 ml ether were added till the reaction started (3 min. with heating to 30° C.). The remaining solution of 2-bromo-3-methylthiophene (total 2.44 g, 10.0 mmol, 1.0 equiv.) was added dropwise to maintain the reaction at reflux. The reaction mixture was refluxed for 30 min. Toluene-4-sulfonic acid 3-methoxy-propyl ester (2.13 g, 12.0 mmol, 1.2 equiv.) dissolved in 5 ml diethyl ether was added dropwise and the yellow solution was refluxed again for 2 hours. The brown suspension was cooled, acidified with 1N HCl and extracted twice with ethyl acetate. The combined organics were washed with KHSO4/K2SO4 and brine, dried over Na2SO4, filtered, evaporated and chromatographed on a 50 g Silicagel cartridge with heptane and than MTBE-heptane 1:9 as solvent to give 2-(3-methoxy-propyl)-3-methyl-thiophene, 410 mg, m/e 170.0 (MH+) by GC/MS.

reactant | Magnesium | 15.0 mmol, 365 mg, 1.5 equiv. | [Mg] | Mg
reactant | iodine | II | I2
reactant | 2-bromo-3-methylthiophene | 10.0 mmol, 2.44 g, 1.0 equiv. | BrC=1SC=CC1C | C5H5BrS
reactant | Toluene-4-sulfonic acid 3-methoxy-propyl ester | 12.0 mmol, 2.13 g, 1.2 equiv. | COCCCOS(=O)(=O)C1=CC=C(C=C1)C | C11H16O4S
reactant | HCl | 1N | Cl | ClH
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
catalyst | 2-bromo-3-methylthiophene | a few drops | BrC=1SC=CC1C | C5H5BrS
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | 2-(3-methoxy-propyl)-3-methyl-thiophene | COCCCC=1SC=CC1C | C9H14OS
